US08198453B2
To (4-nitrophenyl) (S)-2-(N-(tert-butoxycarbonyl)amino)-3-((R)-tetrahydro-2H-pyran-3-yl)propylcarbamate solution (2 mL, 0.013 mmol) was added 2-((R)-(3-chlorophenyl)((R)-piperidin-3-yl)methoxy)ethylcarbamate TFA salt (7.0 mg, 0.016 mmol), followed by excess TEA (0.3 mL). The mixture was stirred for 30 min, then the solvent was removed in vacuo. The resulting oil was purified on preparative HPLC to give methyl 2-((R)—((R)-1-((S)-2-(Boc-amino)-3-((R)-tetrahydro-2H-pyran-3-yl)propylcarbamoyl)piperidin-3-yl)(3-chlorophenyl)methoxy)ethylcarbamate 5 mg, yield 63%. MS ESI+ve m/z 611 (M+H).

reactant | (4-nitrophenyl) (S)-2-(N-(tert-butoxycarbonyl)amino)-3-((R)-tetrahydro-2H-pyran-3-yl)propylcarbamate | 0.013 mmol, 2 mL | C(C)(C)(C)OC(=O)N[C@H](CNC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)C[C@@H]1COCCC1 | C20H29N3O7
reactant | 2-((R)-(3-chlorophenyl)((R)-piperidin-3-yl)methoxy)ethylcarbamate TFA salt | 0.016 mmol, 7.0 mg | OC(=O)C(F)(F)F.ClC=1C=C(C=CC1)[C@H](OCCNC(O)=O)[C@H]1CNCCC1
product | methyl 2-((R)—((R)-1-((S)-2-(Boc-amino)-3-((R)-tetrahydro-2H-pyran-3-yl)propylcarbamoyl)piperidin-3-yl)(3-chlorophenyl)methoxy)ethylcarbamate | 5 mg, yield 63% | C(=O)(OC(C)(C)C)N[C@H](CNC(=O)N1C[C@@H](CCC1)[C@@H](OCCNC(OC)=O)C1=CC(=CC=C1)Cl)C[C@@H]1COCCC1 | C30H47ClN4O7
